US07897616B2
N-Hexyl-7-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide
Analogously to Example 1, tert-butyl 7-methyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxylate (300 mg, 1.2 mmol), 1-isocyanatohexane (183.8 mg, 1.44 mmol) and 4-dimethylaminopyridine (14.7 mg, 0.12 mmol) were reacted in toluene. Yield: 8 mg (2%), M+H+: 277.16.

reactant | tert-butyl 7-methyl-2-oxo-2,3-dihydroimidazo[4,5-b]pyridine-1-carboxylate | 1.2 mmol, 300 mg | CC1=C2C(=NC=C1)NC(N2C(=O)OC(C)(C)C)=O | C12H15N3O3
reactant | 1-isocyanatohexane | 1.44 mmol, 183.8 mg | N(=C=O)CCCCCC | C7H13NO
catalyst | 4-dimethylaminopyridine | 0.12 mmol, 14.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Hexyl-7-methyl-2-oxo-1,2-dihydroimidazo[4,5-b]pyridine-3-carboxamide | C(CCCCC)NC(=O)N1C(NC=2C1=NC=CC2C)=O | C14H20N4O2
